US09446034B2
To a solution of 2-[(2,5-dichloro-4-pyridinyl)amino]-5-fluorobenzonitrile (7.09 g, 25.1 mmol) and 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (3.5 g, 25.1 mmol) in 1,4-dioxane (100 mL) was added cesium carbonate (24.58 g, 75 mmol) and the reaction mixture was degassed. DPEPhos (1.083 g, 2.012 mmol) was added followed by palladium acetate (0.226 g, 1.006 mmol) and the reaction mixture was heated to reflux overnight. The suspension was then filtered. The dioxane was evaporated off. The solid was purified by flash column chromatography on silica gel (10% DCM: EtOAC). Fractions were collected and evaporated. The yellow oil was dissolved in diethyl ether, sonicated and filtered. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluorobenzonitrile (1.3 g, 3.21 mmol, 12.76% yield) was isolated as a white solid; 1H NMR (400 MHz, METHANOL-d4) ppm 1.35 (d, J=6.82 Hz, 6 H) 2.20 (s, 3 H) 4.43 (quin, J=6.69 Hz, 1 H) 5.82 (s, 1 H) 5.89 (s, 1 H) 7.47-7.57 (m, 2 H) 7.61-7.74 (m, 1 H) 7.88 (s, 1 H); HPLC Rt=2.40 min, MS (ESI): 385.2 [M+H]+.

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-5-fluorobenzonitrile | 25.1 mmol, 7.09 g | ClC1=NC=C(C(=C1)NC1=C(C#N)C=C(C=C1)F)Cl | C12H6Cl2FN3
reactant | 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 25.1 mmol, 3.5 g | CC1=NN(C(=C1)N)C(C)C | C7H13N3
reactant | cesium carbonate | 75 mmol, 24.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DPEPhos | 2.012 mmol, 1.083 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 1.006 mmol, 0.226 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluorobenzonitrile | 3.21 mmol, 1.3 g, 12.76% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C#N)C=C(C=C1)F | C19H18ClFN6
